US07253180B2
For example, benzoic acid 7-cyclopent-3-enylmethyl-4-methyl-8-oxo-7,8-dihydro-6H-pyrrolo[3,4-g]quinolin-9-yl ester A17.12 is reacted with N-bromosuccinimide in refluxing ethyl acetate to afford benzoic acid 4-bromomethyl-7-cyclopent-3-enylmethyl-8-oxo-7,8-dihydro-6H-pyrrolo[3,4-g]quinolin-9-yl ester A17.13. This compound is heated to 120° C. with an excess of a trialkyl phosphite to give after deprotection the phenolic phosphonate ester A17.14.

reactant | benzoic acid 7-cyclopent-3-enylmethyl-4-methyl-8-oxo-7,8-dihydro-6H-pyrrolo[3,4-g]quinolin-9-yl ester | C1(CC=CC1)CN1CC=2C=C3C(=CC=NC3=C(C2C1=O)OC(C1=CC=CC=C1)=O)C | C25H22N2O3
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzoic acid 4-bromomethyl-7-cyclopent-3-enylmethyl-8-oxo-7,8-dihydro-6H-pyrrolo[3,4-g]quinolin-9-yl ester | BrCC1=CC=NC2=C(C3=C(C=C12)CN(C3=O)CC3CC=CC3)OC(C3=CC=CC=C3)=O | C25H21BrN2O3
